Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
altered mental status 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old gentleman with a history of EtOH 
abuse, cervical DJD, and multiple psych issues admitted for EtOH 
intoxication and fall.He was s/p elective Anterior/posterior 
decompression and fusion C3-7 for chronic neck pain and arm pain 
on ___ referred to surgery after failed conservative therapy. 
The patient reportedly had a witnessed fall on the street and 
EMS was called. A bottle of benzodiazepines were reportedly 
found on scene by EMS. The patient was reportedly seen earlier 
in the day at ___ for overdose of unknown substance, however his 
tox screen at BID was positive for cocaine. He does not remember 
when he last took cocaine. He thinks that his last drink was ___ 
pint liquor the day after his surgery. It is unclear if he 
experienced LOC as he is a poor historian. His last admission 
for EtOH intoxication was in ___ and required admission to 
the FICU, however following his neck surgery he was noted to be 
confused, thought to be withdrawing from alcohol and placed on 
CIWA. He was also seen taking his home at___ and required 1:1 
sitter with d/c inhouse narcotics.  
.  
In the ___ ED, VS 97 104 122/80 20 97%RA. The patient received 
diazepam 15mg,ativa 2mg, haldol total 15mg, folate, thiamine. CT 
Spine/head showed no acute fracture or intracranial abnormality. 
Ortho spine was consulted and said prevertebral edema on CT 
likely represents postoperative changes but given new fall 
history, will need to continue c-collar for now. Transferred to 
the MICU given altered mental status, anticipated difficult 
intubation if it were needed.  
.  
In ICU pt placed on CIWA scale requiring valium x 3 for 
agitation. Also noted to be tachycardic ___ hypovolemia/pain. 
Received IVF with mild improvement tachycardia.  
.  
On arrival to floor pt endorsing mild neck pain and mild sore 
throat.  
.  

 
Past Medical History:
Substance Abuse
EtOH abuse - no history of withdrawl seizures or DTs.  
Cervical DJD
s/p Spinal fusion C3-C7 ___   
Bipolar disorder  
PTSD  

 
Social History:
___
Family History:
___
 
Physical Exam:
Exam on admission:

General: agitated appearing man, no acute distress
HEENT: Perrl, sclerae anicteric, MMM, OP clear without lesions, 
exudate or erythema. Cervical collar in place.  
CV: Nl S1+S2  
Pulm: CTAB  
Abd: S/NT/ND +bs  
Ext: No C/c/e  
Neuro: disoriented, unable to answer questions or follow 
commands
.
Exam on d/c
VS:Tc: 98.1 HR: 95 BP: 130/90 RR:20 96% RA  
General: mild gurgling on vocalization.  
HEENT: Perrl, Sclerae anicteric, MMM, OP clear without lesions, 
exudate or erythema. Cervical collar in place.  
4 follicular lesions in background of erythema at nape of neck 
at edge of cervical collar,non tender, non pruritic  
CV: Nl S1+S2  
Pulm: CTAB  
Abd: S/NT/ND +bs  
Ext: No C/c/e  
Neuro: AOX3, able to follow commands. 

  
 
Pertinent Results:
ADMISSION LABS:
___ 03:00AM   GLUCOSE-93 UREA N-10 CREAT-0.6 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-27 ANION GAP-15
___ 03:00AM   CALCIUM-8.9 PHOSPHATE-3.3 MAGNESIUM-1.8
___ 03:00AM   OSMOLAL-285
___ 03:00AM   WBC-8.2 RBC-3.26* HGB-10.4* HCT-30.8* MCV-94 
MCH-31.9 MCHC-33.8 RDW-15.0
___ 03:00AM   PLT COUNT-529*
___ 08:45PM URINE  bnzodzpn-POS barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 08:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 07:50PM   GLUCOSE-84 UREA N-12 CREAT-0.6 SODIUM-138 
POTASSIUM-4.4 CHLORIDE-95* TOTAL CO2-28 ANION GAP-19
___ 07:50PM   ASA-NEG ETHANOL-34* ACETMNPHN-NEG 
bnzodzpn-POS barbitrt-NEG tricyclic-NEG
___ 07:50PM   WBC-9.5 RBC-3.41 HGB-10.9 HCT-32.0* MCV-94 
MCH-31.9 MCHC-33.9 RDW-15.3
___ 07:50PM   NEUTS-85.6* LYMPHS-9.6* MONOS-3.5 EOS-1.2 
BASOS-0.1
___ 07:50PM   PLT COUNT-536
.
___ CT HEAD: No acute fracture/hemorrhage; chronic nasal 
deformity  
.  
___ CT SPINE: No fracture or malalignment. Prevertebral soft 
tissue thickening; may be postoperative but no post-op 
comparisons, and could instead represent softtissue swelling if 
there is concern for ligamentous injury. Multilevel degenerative 
change and post-operative appearance of anterior-posterior upper 
C-spine fusion. Sub-cm locule gas adjacent right SCM muscle at 
level of thyroid cartilage unclear significance. Atherosclerotic 
calcs of great vessels, chronic. D/W Dr. ___ in ED.  
. 
___ CXR:   
CHEST AP  
  
Cardiac size is normal. The lung fields are clear. The 
costophrenic angles 
are sharp. Note is made of a fusion within the cervical spine. 
  
IMPRESSION: Normal chest. 
  

 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman with a PMH significant for 
cervical DJD and EtOH abuse, discharged ___ after cervical 
spinal fusion admitted in the setting of witnessed fall and 
polysusbstance abuse.

# Altered Mental Status: This was likely related to 
polysubstance abuse. He was found by EMS with altered mental 
status with an empty pill bottle at his side. Urine and serum 
toxicology were positive for ethanol, benzodiazapines and 
cocaine. He was admitted to the ICU given the potential for a 
difficult intubation if needed, given his recent neck surgery. 
He did not require intubation, and his sensorium cleared. He 
required valium on a CIWA scale, but no longer required valium 
by the time he transferred to the floor. He did have a history 
of hallucinations and blackouts on withdrawing from alcohol, and 
he was started on thiamine and folate. During his 
hospitalization he briefly refused to wear his neck brace.He was 
seen by the psychiatry service to evaluate competency and he was 
deemed competent to make this decision. He then decided to 
comply with wearing the neck brace. 
.
# s/p Fall: This was likely related to polysubstance abuse. He 
was found by EMS with altered mental status with an empty pill 
bottle at his side. Urine and serum toxicology were positive for 
ethanol, benzodiazapines and cocaine. The patient had recently 
had C3-C7 fusion (___). He was seen by the ortho spine 
service, and the determination was made that he had no acute 
fracture, but should continue to wear a heard collar until he 
was seen by orthopedics for follow up as an outpatient. His pain 
was controlled initially with tylenol, ultram and flexoril. 
Oxycodone was eventually reintroduced and he was discharged on 
the same dose recommended by orthopedics following his C3-C7 
fusion. 
.
Polysubstance Abuse: The patient has a history of alcohol, 
cocaine and narcotic abuse. He engaged in extreme drug seeking 
behavior during his hospitalization, including throwing himself 
on the floor in order to obtain higher doses of narcotic 
medications. He was discharged on the same dose recommended in 
the post surgical period by his orthopedic surgeon. He was seen 
by social work and routed to an outpatient addictions support 
facility. 
.
? Bipolar d/o, anxiety d/o: The patient was seen by psychiatry. 
They felt that it was difficult to evaluate the patient's 
reports of anxiety disorder or bipolar disorder in face of his 
active substance abuse. He endorsed worsening of his anxiety and 
moderate weight loss. He should have a TSH checked as an 
outpatient with further work up of this complaint in the 
outpatient setting.  

 
 
Medications on Admission:
Medications (Discharge Meds ___:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for fever.  
2. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 

times a day).  
4. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
5. Fluoxetine 20 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
6. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q3H (every 3 hours) 

as needed for pain.  
7. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
8. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  

 
Discharge Medications:
1. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
3. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
4. Fluoxetine 20 mg Capsule Sig: One (1) Capsule PO once a day.  

5. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO once a day.  
6. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO once a day: 
please do not drink alcohol or perform activities that require 
fast reaction time. ___ cause sedation.  
7. Nicotine 21 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
9. Docusate Sodium 100 mg Capsule Sig: Two (2) Capsule PO BID (2 
times a day) as needed for prn constipation.  
10. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO every six 
(6) hours as needed for fever or pain.  
11. Oxycodone 5 mg Capsule Sig: ___ Capsules PO every three 
hours as needed for pain: please do not drink alcohol or perform 
activities that require a fast reaction time while taking this 
medication. ___ cause sedation. .
Disp:*80 Capsule(s)* Refills:*0*
12. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Altered mental status 
Substance abuse. 
.
Secondary 
Cervical DJD  
s/p Spinal fusion C3-C7 ___  
Bipolar disorder  
PTSD 

 
Discharge Condition:
alert and oriented to person, place and time. 
Fully ambulatory. 

 
Discharge Instructions:
 

You were admitted to the hospital because you had suffered a 
fall in the setting of overdosing on drugs and alcohol. You went 
to the intensive care unit for concern that you would need a 
breathing tube. You did not need a breathing tube and your 
mental status cleared. 
.
The following changes were made to your medications. 
We ADDED
folate 1mg daily
thiamine 100mg daily
.
You can continue to take oxycodone ___ every three hours as 
needed for pain. You have sufficient supply to last you until 
your doctor's appointment on ___. 
.
Activity: You should not lift anything greater than 10 lbs for 
2 weeks. You will be more comfortable if you do not sit or stand 

more than ~45 minutes without getting up and walking around.
.
Rehabilitation/ Physical Therapy: 
___ times a day you should go for a walk for ___ minutes as 
part of your recovery. You can walk as much as you can tolerate. 

 
Diet: Eat a normal healthy diet. You may have some constipation 
after surgery. You have been given medication to help with this 
issue.
. 
Brace: You have been given a brace. This brace is to be worn 
for comfort when you are walking. You may take it off when 
sitting in a chair or while lying in bed. You should continue to 
use this brace until you see Dr ___ in clinic and he gives 
you further instructions.  

 
Followup Instructions:
___